US06949644B2
2-Fluoro-6-phenylsulfenylpurine (2)
To a solution of 2-fluoro-6-chloropurine (10.0 g, 57.9 mmol) in methanol (200 mL) is added diisopropylethylamine (25.2 mL, 144.7 mmol). The mixture is cooled to 0° C. and followed by slow addition of thiophenol (11.9 mL, 115.8 mmol) via an addition funnel over one hour. The reaction is stirred at 0° C. for 12 hours. The solvent is then removed under reduced pressure and the solid is collected by filtration and washed twice with hexanes. The collected solid is further purified by re-crystallization from methanol to afford desired product (11.8 g, 83% yield). 1H NMR (400 MHz, (CD3)2SO) δ 7.54 (m, 3H), 7.66(m, 2H), 8.49(s, 1H); MS C11H7FN4S [MH+] 246.04, found: 247.05.

reactant | 2-fluoro-6-chloropurine | 57.9 mmol, 10.0 g | FC1=NC(=C2NC=NC2=N1)Cl | C5H2ClFN4
reactant | diisopropylethylamine | 144.7 mmol, 25.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | thiophenol | 115.8 mmol, 11.9 mL | C1(=CC=CC=C1)S | C6H6S
solvent | methanol | 200 mL | CO | CH4O
product | 2-Fluoro-6-phenylsulfenylpurine | 11.8 g, 83% yield | FC1=NC(=C2NC=NC2=N1)SC1=CC=CC=C1 | C11H7FN4S
